US05071999
b) 9,9-Dimethyl-10-thia-1,4-diazatricyclo[6.3.0.02,6 ]-undecane
6 g (22.2 mmOl) of ethyl 9,9-dimethyl-10-thia -1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate are heated under reflux overnight with 12 g of Ba(OH)2. 8H2O in 100 ml of water. Potassium carbonate is added, barium carbonate is filtered off with suction and the filtrate is extracted ten times using 100 ml of chloroform each time. The extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 9,9-dimethyl-10-thia -1,4-diazatricyclo[6.3.0.02,6 ]undecane-4-carboxylate | 6 g | CC1(C2CC3CN(CC3N2CS1)C(=O)OCC)C | C13H22N2O2S
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | 9,9-Dimethyl-10-thia-1,4-diazatricyclo[6.3.0.02,6 ]-undecane | CC1(C2CC3CNCC3N2CS1)C | C10H18N2S
